* source TEST
V_V1         N00092 0 0Vdc
D_D1          N01828 0 RED_LED 
V_V2         N00741 0 0Vdc
D_D3          N02091 0 BLUE_LED 
V_V3         N00880 0 0Vdc
D_D4          N02247 0 GREEN_LED 
V_V4         N01058 0 0Vdc
D_D5          N01947 0 YELLOW_LED 
R_R1         N00092 N01828  715 TC=0,0 
R_R2         N00741 N01947  698 TC=0,0 
R_R3         N00880 N02091  620 TC=0,0 
R_R4         N01058 N02247  620 TC=0,0 
