* source SENZOR_DE_NIVEL_NOU
R_R2         0 N30894  {Rx} TC=0,0 
X_U3A         N30628 N30930 VCC -VCC N30930 LM358
R_R21         N31366 N31354  15k TC=0,0 
X_U6B         N31346 N31767 VCC 0 N31954 LM358
X_U6A         N30894 N30898 VCC -VCC N30906 LM358
R_R14         N30620 N30628  1k TC=0,0 
V_V6         N31366 0 16V
R_R8         0 N30522  1k TC=0,0 
V_V2         N30418 0 16V
R_R23         N31346 N31378  1k TC=0,0 
R_R24         0 N31378  1k TC=0,0 
R_R10         N30636 N30580  1k TC=0,0 
X_U5B         N30918 N30620 VCC -VCC N30628 LM358
R_R1         N30894 N30672  100k TC=0,0 
R_R17         N30930 N31172  1k TC=0,0 
R_R25         N31767 VCC  15k TC=0,0 
R_R7         N30522 N30418  5.6k TC=0,0 
X_U4B         N30522 N30636 VCC -VCC N30580 LM358
R_R22         0 N31354  1k TC=0,0 
X_U8A         N31172 N31378 VCC -VCC N31346 LM358
V_V1         N30672 0 16V
R_R15         0 N30918  1k TC=0,0 
V_V4         -VCC 0 -16V
V_V3         VCC 0 16V
R_R13         N30906 N30918  180 TC=0,0 
R_R11         N30898 N30906  1k TC=0,0 
R_R9         N30898 N30636  1k TC=0,0 
R_R16         N31184 N31172  1k TC=0,0 
R_R26         0 N31767  1k TC=0,0 
R_R12         N30580 N30620  180 TC=0,0 
X_U7B         N31354 N31184 VCC -VCC N31184 LM358
R_R27         N35920 N31954  620 TC=0,0 
X_U8B         N31346 N32924 VCC 0 N32145 LM358
R_R28         N34393 N32145  620 TC=0,0 
X_U9B         N31346 N32449 VCC 0 N32433 LM358
R_R31         N35904 N32433  715 TC=0,0 
R_R34         N32924 VCC  2.4k TC=0,0 
R_R35         0 N32924  1k TC=0,0 
R_R37         0 N32449  1.2k TC=0,0 
R_R36         N32449 VCC  1k TC=0,0 
R_R38         N33354 VCC  1k TC=0,0 
R_R39         0 N33354  2k TC=0,0 
X_U10B         N31346 N33354 VCC 0 N33560 LM358
R_R40         N36222 N33560  698 TC=0,0 
D_D1         N35920 N32145 BLUE_LED 
D_D2         N34393 N32433 GREEN_LED 
D_D3         N35904 N33560 RED_LED 
D_D4         N36222 0 YELLOW_LED 
R_R3         0 N30894  150k TC=0,0 
.PARAM  rx=22k
